US04370339
A mixture of 3-methoxybenzylhydrazine (15.2 g), acrylonitrile (10.6 g) and 20 drops of 50% methanolic solution of choline base was heated at 110° in an oil bath for 1 hour. A 25% hydrochloric acid solution (35 ml) was added and the mixture was refluxed for an additional hour. After cooling, the mixture was basified with sodium hydroxide pellets. The precipitate was isolated, washed with water and dried. A solution of the dried product in ethanol was treated with ethereal hydrochloric acid to give 1-(3'-methoxybenzyl)-3-amino-2-pyrazoline hydrochloride.

reactant | 3-methoxybenzylhydrazine | 15.2 g | COC=1C=C(CNN)C=CC1 | C8H12N2O
reactant | acrylonitrile | 10.6 g | C(C=C)#N | C3H3N
reactant | choline | OCC[N+](C)(C)C
reactant | hydrochloric acid | 35 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(3'-methoxybenzyl)-3-amino-2-pyrazoline hydrochloride | Cl.COC=1C=C(CN2N=C(CC2)N)C=CC1 | InChI=1S/C11H15N3O.ClH/c1-15-10-4-2-3-9(7-10)8-14-6-5-11(12)13-14;/h2-4,7H,5-6,8H2,1H3,(H2,12,13);1H
